US08034812B2
Production of N-[4-(imidazo[1,2-b]pyridazin-6-yloxy)phenyl]benzamide
Using 4-(imidazo[1,2-b]pyridazin-6-yloxy)aniline (113 mg, 0.50 mmol), N-methylpyrrolidone (1 mL) and benzoyl chloride (0.116 mL, 1.00 mmol), and in the same manner as in Example 145, the title compound (144 mg, 0.44 mmol, yield 87%) was obtained.

reactant | 4-(imidazo[1,2-b]pyridazin-6-yloxy)aniline | 0.50 mmol, 113 mg | N=1C=CN2N=C(C=CC21)OC2=CC=C(N)C=C2 | C12H10N4O
reactant | benzoyl chloride | 1.00 mmol, 0.116 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | N-methylpyrrolidone | 1 mL | CN1C(CCC1)=O | C5H9NO
product | N-[4-(imidazo[1,2-b]pyridazin-6-yloxy)phenyl]benzamide | 0.44 mmol, 144 mg, yield 87% | N=1C=CN2N=C(C=CC21)OC2=CC=C(C=C2)NC(C2=CC=CC=C2)=O | C19H14N4O2
